US07220759B2
(3R,5R)-5-Hydroxymethylpyrrolidin-3-ol and 4-bromobutyronitrile are reacted in the presence of potassium carbonate in N,N-dimethylformamide to give 4-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]butyronitrile. In the same manner as in Example 1b (e) and using 4-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]butyronitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-{3-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propyl}-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | (3R,5R)-5-Hydroxymethylpyrrolidin-3-ol | OC[C@H]1C[C@H](CN1)O | C5H11NO2
reactant | 4-bromobutyronitrile | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(2R,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]butyronitrile | O[C@@H]1C[C@@H](N(C1)CCCC#N)CO | C9H16N2O2
